US07291635B2
A solution of the title E compound, 5-[5-(2,4-dimethoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-thiophene-2-carboxylic acid methyl-phenethyl-amide (70 mg, 0.13 mmol) in CH2Cl2 (2 mL) is stirred with TFA (2 mL) at RT for 4 h. The volatiles are evaporated and the residue is stirred in equal volumes of MeCN/water (4 mL). The mixture is filtered through a 0.2μ Acrodisc and the solvents are evaporated to dryness. The residue is trituated from Et2O to afford 5-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl)-thiophene-2-carboxylic acid methyl-phenethylamide as an off white solid: [M−1]−=392.

reactant | 5-[5-(2,4-dimethoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-thiophene-2-carboxylic acid methyl-phenethyl-amide | 0.13 mmol, 70 mg | CN(C(=O)C=1SC(=CC1)CN1S(N(C(C1)=O)CC1=C(C=C(C=C1)OC)OC)(=O)=O)CCC1=CC=CC=C1 | C26H29N3O6S2
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 5-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl)-thiophene-2-carboxylic acid methyl-phenethylamide | CN(C(=O)C=1SC(=CC1)CN1S(NC(C1)=O)(=O)=O)CCC1=CC=CC=C1 | C17H19N3O4S2
